.SUBCKT BGM1014_5V21MA 1 2 3 
* Bias: Vs=5.00 V; Is=21.1 mA                
*  MHz  S  MA  R 50                
* Freq  S11                S21               S12                S22  
* Z1=50.000000 Z2=50.000000

R1N 1 10 -5.000000e+001
R1P 10 11 1.000000e+002
R2N 2 20 -5.000000e+001
R2P 20 21 1.000000e+002

*S11 FREQ DB PHASE
E11 11 12 FREQ {V(10,3)}=
+( 1.000000e+002MEG,-1.085478e+001, 1.614900e+001)
+( 2.000000e+002MEG,-9.670879e+000,-3.863000e+000)
+( 3.000000e+002MEG,-9.655554e+000,-1.727700e+001)
+( 4.000000e+002MEG,-9.916566e+000,-2.878900e+001)
+( 5.000000e+002MEG,-1.000598e+001,-3.961000e+001)
+( 6.000000e+002MEG,-1.047729e+001,-5.029700e+001)
+( 7.000000e+002MEG,-1.083540e+001,-5.939400e+001)
+( 8.000000e+002MEG,-1.131118e+001,-6.860100e+001)
+( 9.000000e+002MEG,-1.176289e+001,-7.642500e+001)
+( 1.000000e+003MEG,-1.230075e+001,-8.474700e+001)
+( 1.100000e+003MEG,-1.251750e+001,-9.248300e+001)
+( 1.200000e+003MEG,-1.295982e+001,-9.894200e+001)
+( 1.300000e+003MEG,-1.280898e+001,-1.019600e+002)
+( 1.400000e+003MEG,-1.281316e+001,-1.068870e+002)
+( 1.500000e+003MEG,-1.217001e+001,-1.144250e+002)
+( 1.600000e+003MEG,-1.168351e+001,-1.277560e+002)
+( 1.700000e+003MEG,-1.081094e+001,-1.388220e+002)
+( 1.800000e+003MEG,-9.985393e+000,-1.544480e+002)
+( 1.900000e+003MEG,-9.244877e+000,-1.714940e+002)
+( 2.000000e+003MEG,-8.774871e+000,-1.923430e+002)
+( 2.100000e+003MEG,-8.682808e+000,-2.108210e+002)
+( 2.200000e+003MEG,-8.821751e+000,-2.332990e+002)
+( 2.300000e+003MEG,-8.885539e+000,-2.516930e+002)
+( 2.400000e+003MEG,-9.016255e+000,-2.725210e+002)
+( 2.500000e+003MEG,-9.295384e+000,-2.916560e+002)
+( 2.600000e+003MEG,-9.770087e+000,-3.123970e+002)
+( 2.700000e+003MEG,-1.029978e+001,-3.321430e+002)
+( 2.800000e+003MEG,-1.099379e+001,-3.522960e+002)
+( 2.900000e+003MEG,-1.198889e+001,-3.743570e+002)
+( 3.000000e+003MEG,-1.272889e+001,-3.919610e+002)
+( 3.100000e+003MEG,-1.377425e+001,-4.109430e+002)
+( 3.200000e+003MEG,-1.566033e+001,-4.287770e+002)
+( 3.300000e+003MEG,-1.691456e+001,-4.451060e+002)
+( 3.400000e+003MEG,-1.921330e+001,-4.656830e+002)
+( 3.500000e+003MEG,-2.038176e+001,-4.932380e+002)
+( 3.600000e+003MEG,-2.074693e+001,-5.178880e+002)
+( 3.700000e+003MEG,-2.043456e+001,-5.432970e+002)
+( 3.800000e+003MEG,-2.084594e+001,-5.670340e+002)
+( 3.900000e+003MEG,-1.925067e+001,-5.908430e+002)
+( 4.000000e+003MEG,-1.778282e+001,-6.126210e+002)

*S12 FREQ DB PHASE
E12 12 3 FREQ {V(20,3)}=
+( 1.000000e+002MEG,-3.316735e+001, 9.414000e+000)
+( 2.000000e+002MEG,-3.521902e+001,-3.282000e+000)
+( 3.000000e+002MEG,-3.705885e+001,-2.220600e+001)
+( 4.000000e+002MEG,-3.780843e+001,-2.110900e+001)
+( 5.000000e+002MEG,-3.952672e+001,-3.058700e+001)
+( 6.000000e+002MEG,-4.027352e+001,-3.525100e+001)
+( 7.000000e+002MEG,-4.088624e+001,-3.450400e+001)
+( 8.000000e+002MEG,-4.185177e+001,-4.268500e+001)
+( 9.000000e+002MEG,-4.210261e+001,-3.623200e+001)
+( 1.000000e+003MEG,-4.248720e+001,-4.475700e+001)
+( 1.100000e+003MEG,-4.282926e+001,-4.468200e+001)
+( 1.200000e+003MEG,-4.296261e+001,-4.373500e+001)
+( 1.300000e+003MEG,-4.244106e+001,-4.003200e+001)
+( 1.400000e+003MEG,-4.202550e+001,-3.725100e+001)
+( 1.500000e+003MEG,-4.122961e+001,-3.398500e+001)
+( 1.600000e+003MEG,-4.007853e+001,-3.789300e+001)
+( 1.700000e+003MEG,-3.938801e+001,-3.003100e+001)
+( 1.800000e+003MEG,-3.862886e+001,-3.718800e+001)
+( 1.900000e+003MEG,-3.811058e+001,-4.498700e+001)
+( 2.000000e+003MEG,-3.770778e+001,-4.567500e+001)
+( 2.100000e+003MEG,-3.682069e+001,-6.000400e+001)
+( 2.200000e+003MEG,-3.651880e+001,-6.051700e+001)
+( 2.300000e+003MEG,-3.601587e+001,-6.743500e+001)
+( 2.400000e+003MEG,-3.566613e+001,-6.982500e+001)
+( 2.500000e+003MEG,-3.520901e+001,-7.908900e+001)
+( 2.600000e+003MEG,-3.452609e+001,-8.165300e+001)
+( 2.700000e+003MEG,-3.411950e+001,-8.813100e+001)
+( 2.800000e+003MEG,-3.358047e+001,-9.402700e+001)
+( 2.900000e+003MEG,-3.381592e+001,-9.796300e+001)
+( 3.000000e+003MEG,-3.321495e+001,-1.121610e+002)
+( 3.100000e+003MEG,-3.300280e+001,-1.109690e+002)
+( 3.200000e+003MEG,-3.248307e+001,-1.173740e+002)
+( 3.300000e+003MEG,-3.229860e+001,-1.226080e+002)
+( 3.400000e+003MEG,-3.211447e+001,-1.276960e+002)
+( 3.500000e+003MEG,-3.174407e+001,-1.324230e+002)
+( 3.600000e+003MEG,-3.147303e+001,-1.409570e+002)
+( 3.700000e+003MEG,-3.098578e+001,-1.431630e+002)
+( 3.800000e+003MEG,-3.048658e+001,-1.487190e+002)
+( 3.900000e+003MEG,-3.040562e+001,-1.585830e+002)
+( 4.000000e+003MEG,-2.960344e+001,-1.642340e+002)

*S21 FREQ DB PHASE
E21 21 22 FREQ {V(10,3)}=
+( 1.000000e+002MEG, 2.990506e+001, 9.062000e+000)
+( 2.000000e+002MEG, 3.014092e+001,-7.090000e+000)
+( 3.000000e+002MEG, 3.029706e+001,-1.979700e+001)
+( 4.000000e+002MEG, 3.052006e+001,-3.086700e+001)
+( 5.000000e+002MEG, 3.072915e+001,-4.158400e+001)
+( 6.000000e+002MEG, 3.103120e+001,-5.227300e+001)
+( 7.000000e+002MEG, 3.127626e+001,-6.259500e+001)
+( 8.000000e+002MEG, 3.160801e+001,-7.333300e+001)
+( 9.000000e+002MEG, 3.195061e+001,-8.411800e+001)
+( 1.000000e+003MEG, 3.233350e+001,-9.548600e+001)
+( 1.100000e+003MEG, 3.275680e+001,-1.069650e+002)
+( 1.200000e+003MEG, 3.315641e+001,-1.191320e+002)
+( 1.300000e+003MEG, 3.354246e+001,-1.318030e+002)
+( 1.400000e+003MEG, 3.394180e+001,-1.447670e+002)
+( 1.500000e+003MEG, 3.434092e+001,-1.585050e+002)
+( 1.600000e+003MEG, 3.470799e+001,-1.729620e+002)
+( 1.700000e+003MEG, 3.506752e+001,-1.885500e+002)
+( 1.800000e+003MEG, 3.526227e+001,-2.055880e+002)
+( 1.900000e+003MEG, 3.520528e+001,-2.227730e+002)
+( 2.000000e+003MEG, 3.506354e+001,-2.398550e+002)
+( 2.100000e+003MEG, 3.467614e+001,-2.578630e+002)
+( 2.200000e+003MEG, 3.399797e+001,-2.749840e+002)
+( 2.300000e+003MEG, 3.321522e+001,-2.904660e+002)
+( 2.400000e+003MEG, 3.239835e+001,-3.053520e+002)
+( 2.500000e+003MEG, 3.152752e+001,-3.204750e+002)
+( 2.600000e+003MEG, 3.049363e+001,-3.341210e+002)
+( 2.700000e+003MEG, 2.941967e+001,-3.467310e+002)
+( 2.800000e+003MEG, 2.841297e+001,-3.585960e+002)
+( 2.900000e+003MEG, 2.739211e+001,-3.697290e+002)
+( 3.000000e+003MEG, 2.636711e+001,-3.803470e+002)
+( 3.100000e+003MEG, 2.534343e+001,-3.901020e+002)
+( 3.200000e+003MEG, 2.444184e+001,-3.985260e+002)
+( 3.300000e+003MEG, 2.371254e+001,-4.069960e+002)
+( 3.400000e+003MEG, 2.302188e+001,-4.156720e+002)
+( 3.500000e+003MEG, 2.235801e+001,-4.238400e+002)
+( 3.600000e+003MEG, 2.179951e+001,-4.318510e+002)
+( 3.700000e+003MEG, 2.128092e+001,-4.401940e+002)
+( 3.800000e+003MEG, 2.072779e+001,-4.487440e+002)
+( 3.900000e+003MEG, 2.021532e+001,-4.564790e+002)
+( 4.000000e+003MEG, 1.981299e+001,-4.630560e+002)

*S22 FREQ DB PHASE
E22 22 3 FREQ {V(20,3)}=
+( 1.000000e+002MEG,-8.995922e+000, 1.255200e+002)
+( 2.000000e+002MEG,-1.175516e+001, 1.153200e+002)
+( 3.000000e+002MEG,-1.326040e+001, 1.025530e+002)
+( 4.000000e+002MEG,-1.364834e+001, 8.760300e+001)
+( 5.000000e+002MEG,-1.426593e+001, 7.566900e+001)
+( 6.000000e+002MEG,-1.493324e+001, 6.207800e+001)
+( 7.000000e+002MEG,-1.603291e+001, 4.930500e+001)
+( 8.000000e+002MEG,-1.653219e+001, 3.467600e+001)
+( 9.000000e+002MEG,-1.798019e+001, 2.290300e+001)
+( 1.000000e+003MEG,-1.891157e+001, 1.031800e+001)
+( 1.100000e+003MEG,-2.060423e+001,-1.619000e+000)
+( 1.200000e+003MEG,-2.153305e+001,-8.150000e+000)
+( 1.300000e+003MEG,-2.235293e+001,-1.083100e+001)
+( 1.400000e+003MEG,-2.763695e+001,-4.548000e+000)
+( 1.500000e+003MEG,-2.863362e+001,-1.512400e+001)
+( 1.600000e+003MEG,-2.904451e+001, 3.436200e+001)
+( 1.700000e+003MEG,-2.459032e+001, 3.580400e+001)
+( 1.800000e+003MEG,-2.464353e+001, 4.149900e+001)
+( 1.900000e+003MEG,-2.189056e+001, 1.957800e+001)
+( 2.000000e+003MEG,-1.823090e+001, 1.587200e+001)
+( 2.100000e+003MEG,-1.797881e+001, 6.784000e+000)
+( 2.200000e+003MEG,-1.772648e+001,-4.606000e+000)
+( 2.300000e+003MEG,-1.747802e+001,-1.850600e+001)
+( 2.400000e+003MEG,-1.770511e+001,-3.248500e+001)
+( 2.500000e+003MEG,-1.747412e+001,-4.160500e+001)
+( 2.600000e+003MEG,-1.725355e+001,-5.705700e+001)
+( 2.700000e+003MEG,-1.757012e+001,-6.381200e+001)
+( 2.800000e+003MEG,-1.737597e+001,-7.486300e+001)
+( 2.900000e+003MEG,-1.896229e+001,-9.377300e+001)
+( 3.000000e+003MEG,-1.904360e+001,-1.042760e+002)
+( 3.100000e+003MEG,-1.920300e+001,-1.188910e+002)
+( 3.200000e+003MEG,-2.182816e+001,-1.269650e+002)
+( 3.300000e+003MEG,-2.095384e+001,-1.620190e+002)
+( 3.400000e+003MEG,-1.968359e+001,-1.753630e+002)
+( 3.500000e+003MEG,-2.063782e+001,-1.903640e+002)
+( 3.600000e+003MEG,-1.975507e+001,-2.030520e+002)
+( 3.700000e+003MEG,-1.953413e+001,-2.242300e+002)
+( 3.800000e+003MEG,-1.885124e+001,-2.513020e+002)
+( 3.900000e+003MEG,-1.686781e+001,-2.611310e+002)
+( 4.000000e+003MEG,-1.747997e+001,-2.767600e+002)

.ENDS
